US07964643B2
Biphenyl-4-sulfonic acid [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-(4-hydroxy-butyl)-amide (ABD-188)
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (1 g) and tert-butyl-(2-iodo-ethoxy) diphenyl silane (2 g) were heated in DMF (30 mL) for 3 hours at 60° C. The resultant mixture was poured into water and extracted with dichloromethane. Evaporation and column chromatography (petrol/ethyl acetate) gave the title compound as an amorphous solid. δC (CDCl3, 62.9 MHz): 19.2, 25.1, 26.8, 29.5, 49.3, 49.8, 62.4, 62.9, 127.3, 127.6, 127.7, 127.8, 128.5, 129.1, 129.9, 133.2, 135.6, 138.4, 139.4 and 145.3.

reactant | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | 1 g | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | tert-butyl-(2-iodo-ethoxy) diphenyl silane | 2 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCI | C18H23IOSi
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Biphenyl-4-sulfonic acid [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-(4-hydroxy-butyl)-amide | C(C)(C)(C)[Si](OCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H41NO4SSi
